US06548506B2
Choline 8-[(cyclohexyl)(methyl)amino]-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate was prepared under the conditions of Example 1, but from 1.5 g of 8-[(cyclohexyl)(methyl)amino]-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid in 15 cm3 of methanol and 1.5 cm3 of a 45% solution of choline hydroxide in methanol. After recrystallizing from 15 cm3 of 2-propanol, choline 8-[(cyclohexyl)(methyl)amino]-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate was obtained in the form of a yellow solid melting at about 245-250° C.

reactant | 8-[(cyclohexyl)(methyl)amino]-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.5 g | C1(CCCCC1)N(C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)F)C | C21H22FN3O3
reactant | choline hydroxide | [OH-].OCC[N+](C)(C)C
solvent | methanol | 15 cm3 | CO | CH4O
product | choline 8-[(cyclohexyl)(methyl)amino]-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate | OCC[N+](C)(C)C.C1(CCCCC1)N(C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)[O-])C)C1)F)C | InChI=1S/C21H22FN3O3.C5H14NO/c1-24-11-15(21(27)28)19(26)14-8-12-9-16(22)18(10-17(12)23-20(14)24)25(2)13-6-4-3-5-7-13;1-6(2,3)4-5-7/h8-11,13H,3-7H2,1-2H3,(H,27,28);7H,4-5H2,1-3H3/q;+1/p-1
